US08754103B2
A mixture of 2-chloro-3-methyl-5-(4-(trifluoromethoxy)phenyl)pyridine prepared as described above (58 mg, 0.20 mmol), sodium azide (21 mg, 0.30 mmol), and pyridine 4-methylbenzenesulfonate (5 mg, 0.02 mmol) in anhydrous DMF (2.0 mL) was capped in a Biotage microwave reaction vial and subjected to irradiation at 160° C. for 30 min. Cooled, pressure released by opening the cap, additional sodium azide (65 mg, 1.00 mmol) and pyridine 4-methylbenzenesulfonate (52 mg, 0.20 mmol) were added, capped, and subjected to irradiation at 200° C. for 30 min. After cooling, the mixture was concentrated in vacuo, diluted with DMF (1.0 mL) and MeOH (2.0 mL), filtered, and subjected to preparative HPLC with a gradient MeCN/H2O (5% to 98 containing 0.1% TFA to afford 8-methyl-6-(4-(trifluoromethoxy)phenyl)tetrazolo[1,5-a]pyridine

reactant | 2-chloro-3-methyl-5-(4-(trifluoromethoxy)phenyl)pyridine | ClC1=NC=C(C=C1C)C1=CC=C(C=C1)OC(F)(F)F | C13H9ClF3NO
reactant | sodium azide | 0.30 mmol, 21 mg | [N-]=[N+]=[N-].[Na+]
reactant | pyridine 4-methylbenzenesulfonate | 0.02 mmol, 5 mg | CC1=CC=C(C=C1)S(=O)(=O)O.N1=CC=CC=C1
reactant | sodium azide | 1.00 mmol, 65 mg | [N-]=[N+]=[N-].[Na+]
reactant | pyridine 4-methylbenzenesulfonate | 0.20 mmol, 52 mg | CC1=CC=C(C=C1)S(=O)(=O)O.N1=CC=CC=C1
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 8-methyl-6-(4-(trifluoromethoxy)phenyl)tetrazolo[1,5-a]pyridine | CC=1C=2N(C=C(C1)C1=CC=C(C=C1)OC(F)(F)F)N=NN2 | C13H9F3N4O
